US07923561B2
(R)-Indan-1-yl-[5-(1H-indol-4-yl)-quinolin-2-yl]-amine
The title compound, MS: m/e=376.5 (M+H+), was prepared in accordance with the general method of example 63 from 5-iodo-2-chloroquinoline, (R)-1-aminoindane and 1H-indole-4-boronic acid.

reactant | 5-iodo-2-chloroquinoline | IC1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClIN
reactant | (R)-1-aminoindane | N[C@@H]1CCC2=CC=CC=C12 | C9H11N
reactant | 1H-indole-4-boronic acid | N1C=CC=2C(=CC=CC12)B(O)O | C8H8BNO2
product | (R)-Indan-1-yl-[5-(1H-indol-4-yl)-quinolin-2-yl]-amine | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=CC(=C2C=C1)C1=C2C=CNC2=CC=C1 | C26H21N3
